US05252571
Ethyl 2-[4-(5,7-difluorobenzothiazol-2-yl)methyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl]acetate
Ethyl 2-(4-cyanomethyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate (580 mg) and 474 mg of 2-amino-4,6-difluorothiophenol hydrochloride were added to 4 ml of anhydrous ethanol, the mixture was heated to reflux under argon atmosphere. After 15 hours, the solvent was distilled off. Water was added to the mixture, and extracted with ethyl acetate. After the drying of the organic layer over anhydrous magnesium sulfate, the solvent was distilled off. The resulting oily matter was subjected to alumina column chromatography. Elution with hexane-ehtyl acetate gave 660 mg of the title compound. The structural formula and physical data of this compound are shown in Table 19.

reactant | Ethyl 2-(4-cyanomethyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl)acetate | 580 mg | C(#N)CN1C(C(SC2=C1C=CC=C2)CC(=O)OCC)=O | C14H14N2O3S
reactant | 2-amino-4,6-difluorothiophenol hydrochloride | 474 mg | Cl.NC1=C(C(=CC(=C1)F)F)S
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | Ethyl 2-[4-(5,7-difluorobenzothiazol-2-yl)methyl-3,4-dihydro-3-oxo-2H-1,4-benzothiazin-2-yl]acetate | 660 mg | FC=1C=C(C2=C(N=C(S2)CN2C(C(SC3=C2C=CC=C3)CC(=O)OCC)=O)C1)F | C20H16F2N2O3S2
